US07687664B2
1.013 g of [(5-bromo-2-methoxyphenethyl)oxy](t-butyl)diphenyl silane, 580 mg of 3-carboxymethylboronic acid, 170 mg of tetrakistriphenyl phosphine palladium and 1.01 g of potassium carbonate were dissolved in 12 ml of toluene, and the mixture was stirred overnight at 90° C. in a nitrogen atmosphere. The reaction mixture was filtered through Celite, the filtrate was concentrated, and then the residue was dissolved in 15 ml of tetrahydrofuran. To this reaction mixture was added 5 ml of tetrabutyl ammonium fluoride solution (1M) in tetrahydrofuran, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and successively washed with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed. The residue was purified by a silica gel column, and 197 mg methyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]benzoic acid was obtained from a fraction eluted with hexane-ethyl acetate (2:1).

reactant | [(5-bromo-2-methoxyphenethyl)oxy](t-butyl)diphenyl silane | 1.013 g | BrC=1C=CC(=C(CCO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C1)OC | C25H29BrO2Si
reactant | potassium carbonate | 1.01 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]benzoic acid | 197 mg | CC1=C(C(=O)O)C=CC=C1C1=CC(=C(C=C1)OC)CCO | C17H18O4
